US09034900B2
7-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-5-methylfuro[3,2-c]pyridin-4-one
The title compound was prepared in a manner similar to Example 197, by substituting 2-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane for 2-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane and 7-bromo-5-methylfuro[3,2-c]pyridin-4-one for 4-bromo-2-methyl-6-(trifluoromethyl)isoquinolin-1-one. 1H NMR (DMSO-d6, 400 MHz) δ 7.88 (m, 4H), 7.33 (d, J=9.4 Hz, 1H), 7.01 (d, J=2.0 Hz, 1H), 4.02 (d, J=6.8 Hz, 2H), 3.58 (s, 3H), 3.28 (m, 2H), 1.12 (t, J=7.4 Hz, 3H), 1.08 (m, 1H), 0.45 (m, 2H), 0.24 (m, 2H). LCMS: 388.1 (M+H)+

reactant | 2-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C17H25BO5S
reactant | 7-bromo-5-methylfuro[3,2-c]pyridin-4-one | BrC=1C2=C(C(N(C1)C)=O)C=CO2 | C8H6BrNO2
reactant | 4-bromo-2-methyl-6-(trifluoromethyl)isoquinolin-1-one | BrC1=CN(C(C2=CC=C(C=C12)C(F)(F)F)=O)C | C11H7BrF3NO
product | 7-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-5-methylfuro[3,2-c]pyridin-4-one | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)CC)C=1C2=C(C(N(C1)C)=O)C=CO2 | C20H21NO5S
